US05849757
Diethyl (1-benzhydryl-3-azetidinyl)malonate
To 17.90 g (111.80 mmol) of diethyl malonate dissolved in 250 ml of tetrahydrofuran was added 4.07 g (101.75 mmol) of 60% sodium hydride at room temperature, followed by 2 hours of stirring. Thereafter, thereto was added 20 g (50.82 mmol) of 1-benzhydryl-3-(p-toluenesulfonyloxy)azetidine which has been dissolved in 90 ml of tetrahydrofuran, followed by 1 week of heating under reflux. The reaction solution was mixed with 10% citric acid aqueous solution and then tetrahydrofuran was evaporated. The resulting residue was mixed with saturated sodium bicarbonate aqueous solution, extracted with chloroform (200 ml×3) and dried over anhydrous sodium sulfate. After evaporation of the solvent, the resulting residue was purified by a silica gel column chromatography (230-400 mesh silica gel 450 ml, ethyl acetate:hexane 1:3) to yield quantitative amount of the title compound.

reactant | diethyl malonate | 111.80 mmol, 17.90 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 101.75 mmol, 4.07 g | [H-].[Na+]
reactant | 1-benzhydryl-3-(p-toluenesulfonyloxy)azetidine | 50.82 mmol, 20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C1=CC=C(C=C1)C | C23H23NO3S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | Diethyl (1-benzhydryl-3-azetidinyl)malonate | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(C(=O)OCC)C(=O)OCC | C23H27NO4
